US05677464
1-[4-(1,1,2,2-Tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone (9.7 g) was dissolved in 60 ml of 1-methyl-2-pyrrolidone, to which 1.08 g of 72% sodium hydride in oil was added. The mixture was stirred at room temperature for an hour. The reaction solution was ice-cooled and added dropwise under nitrogen atmosphere over the period of 25 minutes to a solution of 11.6 g of (2S)-2'-fluoro-2-trifluoromethanesulfonyloxypropiophenone in 100 ml of tetrahydrofuran which was cooled to -40° C. After the reaction temperature was raised to -35° C. over the period of 10 minutes, the reaction solution was stirred for 20 minutes. The reaction solution was diluted with 3 ml of acetic acid, 450 ml of ethyl acetate and 200 ml of diisopropyl ether, washed with water (250 ml×2), 0.5N-hydrochloric acid (150 ml×2) and 300 ml of a saturated aqueous solution of sodium chloride successively, and dried over anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by silica gel chromatography (eluent; hexane:ethyl acetate:acetic acid=2:1:0.04) and crystallized from diisopropyl ether to give 5.1 g of 1-[(1R)-2-(2-fluorophenyl)-2-oxo-1-methylethyl]-3-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone (yield: 34%) as colorless prisms.

reactant | 1-[4-(1,1,2,2-Tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone | 9.7 g | FC(C(F)F)(OC1=CC=C(C=C1)N1C(NC=C1)=O)F | C11H8F4N2O2
reactant | sodium hydride | 1.08 g | [H-].[Na+]
reactant | (2S)-2'-fluoro-2-trifluoromethanesulfonyloxypropiophenone | 11.6 g | FC1=C(C=CC=C1)C([C@H](C)OS(=O)(=O)C(F)(F)F)=O | C10H8F4O4S
solvent | 1-methyl-2-pyrrolidone | 60 ml | CN1C(CCC1)=O | C5H9NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 450 ml | C(C)(=O)OCC | C4H8O2
solvent | diisopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
product | 1-[(1R)-2-(2-fluorophenyl)-2-oxo-1-methylethyl]-3-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone | 5.1 g, yield: 34% | FC1=C(C=CC=C1)C([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)OC(C(F)F)(F)F)=O)=O | C20H15F5N2O3
